US05977101
b) Benzyl 4-[2-(BOC-methylamino)acetyl]phenoxyacetate
A mixture of 4-[2-(BOC-methylamino)acetyl]phenol (5.04 g, 19.0 mmol) and K2CO3 (2.63 g, 19.0 mmol) in acetone (100 mL) was stirred at reflux under argon for 1 h. The mixture was cooled to RT and benzyl bromoacetate (5.23 g, 22.8 mmol) was added. The reaction was heated at reflux for 18 h, then was cooled and filtered. The filter cake was washed with acetone, and the filtrate was concentrated on the rotavap. The residue was dissolved in CH2Cl2 (300 mL) and washed sequentially with H2O (50 mL) and brine (50 mL). Drying (Na2SO4), concentration, and flash chromatography (silica gel, 1:3 EtOAc/hexanes) yielded the title compound (7.28 g, 93%): 1H NMR (250 MHz, CDCl3) δ 6.85-7.95 (m, 9 H), 5.23 (s, 2H), 4.71 (s, 2H), 4.55 (d, 2H), 2.95 (d, 3H), 1.45 (d, 9H).

reactant | 4-[2-(BOC-methylamino)acetyl]phenol | 19.0 mmol, 5.04 g | C(=O)(OC(C)(C)C)N(CC(=O)C1=CC=C(C=C1)O)C | C14H19NO4
reactant | K2CO3 | 19.0 mmol, 2.63 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromoacetate | 22.8 mmol, 5.23 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | Benzyl 4-[2-(BOC-methylamino)acetyl]phenoxyacetate | 7.28 g, 93% | C(=O)(OC(C)(C)C)N(CC(=O)C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1)C | C23H27NO6
